US04391825
6-Methoxy-5-(trifluoromethylthio)-1-naphthalenecarboxylic Acid (V, R2 =CH3)
Aqueous NaOH solution (1 N, 15.5 ml) was added to a solution of 6-methoxy-5-(trifluoromethylthio)-1-naphthalenecarboxylic acid methyl ester (2.45 g, 7.7 mmoles) in 2-methoxyethanol (60 ml). The resulting solution was stirred at room temperature for 24 hr, cooled in an ice-bath, made acidic (pH=3) by the addition of 1 N aqueous HCl and diluted with water. The resulting solid was collected, washed with water and recrystallized from ethanol to give the title compound (1.7 g); mp 204°-205° C.; NMR (DMSO-d6) δ 4.00 (s, 3H), 8.20 (m, 5H), 10.30 (broad, 1H).

reactant | NaOH | 1 N, 15.5 ml | [OH-].[Na+]
reactant | 6-methoxy-5-(trifluoromethylthio)-1-naphthalenecarboxylic acid methyl ester | 7.7 mmoles, 2.45 g | COC(=O)C1=CC=CC2=C(C(=CC=C12)OC)SC(F)(F)F | C14H11F3O3S
reactant | HCl | 1 N | Cl | ClH
solvent | 2-methoxyethanol | 60 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 6-Methoxy-5-(trifluoromethylthio)-1-naphthalenecarboxylic Acid | 1.7 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)O)SC(F)(F)F | C13H9F3O3S
